US08866135B2
13.4 g of 2-methoxy-3-(2-fluorophenyl)naphthalene and 100 mL of N,N-dimethylformamide were placed in a flask. Then, 40 mL of a N,N-dimethylformamide solution of 11.3 g of N-bromosuccinimide was added. The reaction solution was stirred at 60° C. for 8 hours. After cooling to room temperature, 500 mL of water was added. Then, an organic substance was extracted with toluene. The toluene solution was sequentially washed with sodium thiosulfate and saturated saline. After drying with magnesium sulfate, the organic phase was concentrated. Residues were purified by silica gel column chromatography, whereby 15.8 g (yield: 95%) of 1-bromo-2-methoxy-3-(2-fluorophenyl)naphthalene was obtained.

reactant | 2-methoxy-3-(2-fluorophenyl)naphthalene | 13.4 g | COC1=CC2=CC=CC=C2C=C1C1=C(C=CC=C1)F | C17H13FO
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | N-bromosuccinimide | 11.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 500 mL | O | H2O
product | 1-bromo-2-methoxy-3-(2-fluorophenyl)naphthalene | 15.8 g, yield: 95% | BrC1=C(C(=CC2=CC=CC=C12)C1=C(C=CC=C1)F)OC | C17H12BrFO
